US05952511
A solution of 5.38 g of hydroxylamine hydrochloride and 5.38 g of sodium acetate in 40 ml of water was added to a suspension of 11.1 g of 1-(2,2-diethoxyethyl)isatin in 100 ml of ethanol. The mixture was stirred at room temperature for 1 hour, followed by concentration. The concentrate was diluted with chloroform and washed with an aqueous solution of sodium chloride. The chloroform layer was dried over anhydrous sodium sulfate and concentrated, and the residue was recrystallized from ethyl acetate to obtain 7.10 g (61%) of 1-(2,2-diethoxyethyl)-3-(hydroxyimino)indolin-2-one as yellow crystals.

reactant | hydroxylamine hydrochloride | 5.38 g | Cl.NO
reactant | sodium acetate | 5.38 g | C(C)(=O)[O-].[Na+]
reactant | 1-(2,2-diethoxyethyl)isatin | 11.1 g | C(C)OC(CN1C(=O)C(=O)C2=CC=CC=C12)OCC | C14H17NO4
solvent | water | 40 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(2,2-diethoxyethyl)-3-(hydroxyimino)indolin-2-one | 7.10 g, 61% | C(C)OC(CN1C(C(C2=CC=CC=C12)=NO)=O)OCC | C14H18N2O4
